Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dizziness
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical history 
of Rheumatoid arthritis, osteoperosis, left eye in ifection in 
___ on chronic, suppressive antibiotics, cataracts s/p surgery, 
s/p bilateral total hip arthoplasty in ___, 
hypercholesterolemia who presents to the ER with lightheadedness 
and dizziness for the second time in 3 days.  

Per the previous ER history on ___, "She states she does not 
have an AC and she has been very hot in her apartment and has 
been feeling lightheaded with standing today, two episodes, that 
resolve with resting. She also endorses one episode of loose 
stool after the lightheadedness this morning. She denies fevers, 
chills, chest pain, shortness of breath, abdominal, n/v. No head 
strike or anticoagulation."  

She had toxic metabolic work-up that was unrevealing including a 
rule-out for MI.  She was discharged home with ___ nursing care, 
but when she returned home, she had similar symptoms and came 
back to the ER. She states that the lightheadedness occurs when 
she gets up, but resolves with time.  It is severe in nature, 
and not associated with the room spinning and does not think 
this is vertigo.  She thinks the heat and poor AC may be 
responsible for her symptoms.  

Re: eye infection - she has had left eyelid infection in ___, 
and has been on Doxycycline 50mg PO daily for 7 days a month, 
which finished one day prior to this ___ presentation. She noted 
3 loose bowel movements, not watery, and not associated with 
blood.  She has been on ABX for ___ years, but thinks her dose has 
been reduced recently.  

Re: weight loss - she is usually 115-125 pounds but is currently 
___. This is unintentional.  She denies any fevers, change in 
diet, vaginal bleeding, breast lumps, abdominal pain, URI 
symptoms.  

Re: joint pain. She has RA but has not seen a rheumatologist or 
taken an y medications for this in over ___ years.  She notes 
increasing joint pains in her fingers, right shoulder, and left 
knee.  

Vitals in the ER: 97.3  81  134/56  16  100% RA 
 
There, the patient received: 1L NS (no reported change in 
symptoms) 

 
Past Medical History:
constipation, osteoperosis, cataracts s/p surgery, left eye 
infection in ___ on chronic, suppressive antibiotics RA, s/p 
bilateral total hip arthoplasty in ___, hypercholesterolemia
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
CV: Heart regular rate; normal perfusion, no appreciable JVD
RESP: Symmetric breathing pattern with no stridor. Breathing is 
non-labored
GI: Abdomen soft, non-distended
MSK: Neck supple, normal muscle bulk and tone 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, speech fluent, moves all 
limbs
PSYCH: normal thought content, circumstantial thought process, 
normal affect.
 
Pertinent Results:
___ 06:27AM BLOOD WBC-5.5 RBC-3.12* Hgb-10.6* Hct-32.6* 
MCV-105* MCH-34.0* MCHC-32.5 RDW-13.2 RDWSD-50.2* Plt ___
___ 06:27AM BLOOD Glucose-81 UreaN-15 Creat-0.6 Na-144 
K-4.3 Cl-105 HCO3-26 AnGap-13
___ 06:42AM BLOOD calTIBC-281 VitB12-237* Ferritn-139 
TRF-216
___ 06:42AM BLOOD TSH-3.7
___ 06:42AM BLOOD RheuFac-<10 CRP-1.8

CXR
Lungs are clear.  There is no consolidation, significant 
effusion, or edema.  
Cardiomediastinal silhouette is within normal limits.  No acute 
osseous 
abnormalities. 

___ 12:04AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:04AM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 

___ 12:04 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
 
Brief Hospital Course:
Ms. ___ is a ___ female with the past medical history 
of Rheumatoid arthritis, osteoperosis, left eye in infection in 
___ on chronic, suppressive antibiotics, cataracts s/p surgery, 
s/p bilateral total hip arthoplasty in ___, 
hypercholesterolemia who presents to the ER with lightheadedness 
and dizziness for the second time in 3 days. She has also had 
___ pounds of unintentional weight loss, loose stools, and 
joint pains. 

#Weakness and Dizziness:
#Mild vitamin B12 deficiency: The patient began feeling better 
after receiving IVF and food. Orthostatic hypotension was not 
present. C. diff was negative. Urine cultures sent in the ER on 
___ and ___ but UAs were normal both times. ___ and OT worked 
with the patient as well as nutrition and social work. Patient 
meets criteria for malnutrition. Home therapy, skilled nursing, 
social work, and elder services has been arranged. She was 
started on cyanocobalamin 500 mcg daily for mild vitamin b12 
deficiency as well as empiric folic acid 1 mg daily as folate is 
pending at the time of discharge.

#Unintentional weight loss: Her last CSY was in ___, but she 
reports recent FOBT. She has not been experiencing B-symptoms. 
She has not noticed changes in the characteristics of her stools 
over the past month. She has RA off of therapy for greater than 
___ years, RF and CRP within normal limits. TSH within normal 
limits. It is highly possible her caloric intake does not match 
her expenditure. She has a background in dance and remains very 
active despite her RA. She reports poor access to food despite 
food stamps (reports still not being able to afford food in her 
neighborhood) as well as an unwillingness to eat foods she 
perceives as unhealthy. She also admits to forgetting to eat 
because she is too focused on something else. The aforementioned 
services have been arranged, and a multivitamin was started.

#Loose stools on chronic ABX
- Recommended probiotic on discharge since evidence shows it 
reduces C. diff infections, though affordability challenging

#Anemia - Mild B12 deficiency. Iron studies not suggestive of 
iron deficiency

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxycycline Hyclate 50 mg PO DAILY 

 
Discharge Medications:
1.  Bisacodyl ___AILY 
RX *bisacodyl 10 mg 1 suppository(s) rectally as needed for 
constipation Disp #*12 Suppository Refills:*0 
2.  Cyanocobalamin 500 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 500 mcg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*1 
4.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
5.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*3 
6.  Doxycycline Hyclate 50 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Failure to thrive
Dehydration
Malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ with dizziness. We think this was 
related to not having enough to eat and drink as well as your 
apartment being hot. With the help of Nutrition, Physical 
Therapy, Occupational Therapy, and Social Work, we have arranged 
for additional help at home. Thank you for allowing us to 
participate in your care.

Instructions:
- Take docusate and use bisadocyl as needed to have about one 
bowel movement daily
- Take a multivitamin daily as well as vitamin b12 
(cyanocobalamin) 500 mcg daily and folic acid 1 mg daily
 
Followup Instructions:
___